### PR TITLE
[Merged by Bors] - feat: When `a \ b = b \ a`

### PR DESCRIPTION
**Pull request by YaelDillies**
and other simple order lemmas

From LeanAPAP and LeanCamCombi

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 1]
```diff
@@ -97,18 +97,24 @@ theorem sup'_eq_csSup_image [ConditionallyCompleteLattice β] (s : Finset α) (H
...
+  sup'_id_eq_csSup (α := αᵒᵈ) _ hs
 #align finset.inf'_id_eq_cInf Finset.inf'_id_eq_csInf
 
+variable [Fintype ι] [Nonempty ι]
+
+lemma sup'_univ_eq_csupr (f : ι → α) : univ.sup' univ_nonempty f = ⨆ i, f i := by
+  simp [sup'_eq_csSup_image, iSup]
+
+lemma inf'_univ_eq_cinfi (f : ι → α) : univ.inf' univ_nonempty f = ⨅ i, f i := by
+  simp [inf'_eq_csInf_image, iInf]
```
Comment (eric-wieser) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:118]: I'm really quite surprise we don't already have these.

File: Mathlib/Order/Heyting/Basic.lean [hunk 2]
```diff
@@ -442,6 +442,9 @@ theorem le_himp_himp : a ≤ (a ⇨ b) ⇨ b :=
   le_himp_iff.2 inf_himp_le
 #align le_himp_himp le_himp_himp
 
+@[simp] lemma himp_eq_himp : b ⇨ a = a ⇨ b ↔ a = b := by simp [le_antisymm_iff]
+lemma himp_ne_himp : b ⇨ a ≠ a ⇨ b ↔ a ≠ b := himp_eq_himp.not
```
Comment (eric-wieser) [inline Mathlib/Order/Heyting/Basic.lean:446]: I'd be tempted to put `_iff`s on these lemmas, just to make their statement more obvious

File: Mathlib/Order/ConditionallyCompleteLattice/Basic.lean [hunk 3]
```diff
@@ -1223,21 +1223,21 @@ theorem le_ciSup_iff' {s : ι → α} {a : α} (h : BddAbove (range s)) :
...
-  csInf_le ⟨⊥, fun _ _ => bot_le⟩ h
+theorem csInf_le' (h : a ∈ s) : sInf s ≤ a := csInf_le (OrderBot.bddBelow _) h
 #align cInf_le' csInf_le'
 
-theorem ciInf_le' (f : ι → α) (i : ι) : iInf f ≤ f i :=
-  ciInf_le ⟨⊥, fun _ _ => bot_le⟩ _
+theorem ciInf_le' (f : ι → α) (i : ι) : iInf f ≤ f i := ciInf_le (OrderBot.bddBelow _) _
 #align cinfi_le' ciInf_le'
 
+lemma cinfi_le_of_le' (c : ι) : f c ≤ a → iInf f ≤ a := ciInf_le_of_le (OrderBot.bddBelow _) _
```
Comment (eric-wieser) [inline Mathlib/Order/ConditionallyCompleteLattice/Basic.lean:1239]: Did you mean:
```suggestion
lemma ciInf_le_of_le' (c : ι) : f c ≤ a → iInf f ≤ a := ciInf_le_of_le (OrderBot.bddBelow _) _
```

File: Mathlib/Order/BooleanAlgebra.lean [hunk 4]
```diff
@@ -326,6 +326,15 @@ theorem le_sdiff_iff : x ≤ y \ x ↔ x = ⊥ :=
   ⟨fun h => disjoint_self.1 (disjoint_sdiff_self_right.mono_right h), fun h => h.le.trans bot_le⟩
 #align le_sdiff_iff le_sdiff_iff
 
+@[simp] lemma sdiff_eq_right : x \ y = y ↔ x = ⊥ ∧ y = ⊥ := by
+  refine ⟨fun h ↦ ?_, ?_⟩
+  · obtain ⟨h, rfl⟩ := disjoint_sdiff_self_left.eq_iff.1 h
+    simpa using h
+  · rintro ⟨rfl, rfl⟩
+    exact bot_sdiff
```
Comment (eric-wieser) [inline Mathlib/Order/BooleanAlgebra.lean:334]: Is there a `himp` analog?

Comment (YaelDillies) [reply Mathlib/Order/BooleanAlgebra.lean:334]: Yes, but only in boolean algebras because we don't "generalized coboolean algebras" or whatever that is called

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:118]: So am I!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
